US06479486B2
2,3-Dihydro-2-methyl-5-trifluoromethoxybenzofuran
10 ml solution of (2-iodo-4-trifluoromethoxyphenyloxy)-1-p-toluenesulphonyloxypropane (Description 20; 16 g, 28 mmol) in tetrahydrofuran (50 ml) was added dropwise to a stirred mixture of magnesium turnings (5 g, 208 mmol) in tetrahydrofuran (20 ml). 1,2-Dibromoethane (0.1 ml) was added. The exotermic reaction started. The mixture was warm up to reflux and the rest of (2-iodo-4-trifluoromethoxyphenyloxy)-1-p-toluenesulphonyloxypropane solution was added dropwise. The reaction mixture was heated at reflux for 24 hours, then cooled to room temperature and quenched with 2M aqueous hydrochloric acid. The mixture was extracted with a 1:1 mixture iso-hexane:diethyl ether (3×100 ml). The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:diethyl ether 0-15%) to give the title compound (2.8 g, 36%).

reactant | (2-iodo-4-trifluoromethoxyphenyloxy)-1-p-toluenesulphonyloxypropane | 28 mmol, 16 g | IC1=C(C=CC(=C1)OC(F)(F)F)OC(CC)OS(=O)(=O)C1=CC=C(C=C1)C | C17H16F3IO5S
reactant | magnesium | 208 mmol, 5 g | [Mg] | Mg
reactant | 1,2-Dibromoethane | 0.1 ml | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-2-methyl-5-trifluoromethoxybenzofuran | 2.8 g, 36% | CC1OC2=C(C1)C=C(C=C2)OC(F)(F)F | C10H9F3O2
